US07045545B1
A mixture of 0.11 gm (0.49 mMol) 2-methyl-2-(5-fluorobenzofur-7-yl)propionamide and 0.02 gm (0.49 mMol) lithium aluminium hydride in 2 mL tetrahydrofuran was stirred at room temperature for 1 hour. The reaction mixture was then treated sequentially with 38 μL water, 38 μL 15% sodium hydroxide, and 0.11 μL water. The reaction mixture was stirred vigorously for 1 hour and was then filtered. The filtrate was concentrated under reduced pressure to provide 0.018 gm (18%) 2-methyl-2-(5-fluorobenzofur-7-yl)-1-aminopropane. The hydrochloride salt was prepared to provide the title compound.

reactant | 2-methyl-2-(5-fluorobenzofur-7-yl)propionamide | 0.49 mMol, 0.11 gm | CC(C(=O)N)(C)C1=CC(=CC=2C=COC21)F | C12H12FNO2
reactant | lithium aluminium hydride | 0.49 mMol, 0.02 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 38 μL | O | H2O
reactant | sodium hydroxide | 38 μL | [OH-].[Na+]
reactant | water | 0.11 μL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-methyl-2-(5-fluorobenzofur-7-yl)-1-aminopropane | 0.018 gm, 18% | CC(CN)(C)C1=CC(=CC=2C=COC21)F | C12H14FNO
